US04167568
A stirred mixture of 2-(5-amino-2-propoxyphenyl)-8-azapurin-6-one (2.02 g), ethyl 2-ethoxy-1-cyclopentenecarboxylate (1.43 g) and dry sulpholane (20 ml) was heated at 125°-130° C. for 2 hours. The solution was then cooled and poured into dilute hydrochloric acid (200 ml; 2 N) and the yellow solid obtained was filtered off and recrystallised from a mixture of petroleum ether (b.p. 60°-80° C.) and ethyl acetate to give 2-[5-(2-ethoxycarbonylcyclopent-1-enylamino)-2-propoxyphenyl]-8-azapurin-6-one (0.85 g), m.p. 164°-165° C.

reactant | 2-(5-amino-2-propoxyphenyl)-8-azapurin-6-one | 2.02 g | NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C13H12N6O2
reactant | ethyl 2-ethoxy-1-cyclopentenecarboxylate | 1.43 g | C(C)OC1=C(CCC1)C(=O)OCC | C10H16O3
reactant | sulpholane | 20 ml | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | hydrochloric acid | 2 N, 200 ml | Cl | ClH
product | 2-[5-(2-ethoxycarbonylcyclopent-1-enylamino)-2-propoxyphenyl]-8-azapurin-6-one | 0.85 g | C(C)OC(=O)C1=C(CCC1)NC=1C=CC(=C(C1)C1=NC(C2=NN=NC2=N1)=O)OCCC | C21H22N6O4
